Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2],6.01787174321
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-0.569758666271
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5],8.12533591668
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1],3.23637611242
[C:3]([H:4])([H:5])=[C:6][O:7][C:8][H:9].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],1.50662944367
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.25069983513
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.32034388173
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3],5.22755809266
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],1.7974908831799998
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:12][H:13].[H:11],1.48178912331
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.71159657809
[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.61160092515
[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]#[C:6][H:7],1.72590855932
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]1([H:6])[C:7][C:8]1[C:9]([H:10])([H:11])[H:12],2.02640632209
[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12],-6.50228884229
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.44893848743
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]#[C:4],6.73303603799
[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.37604696316
[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.8057245036400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:12]([H:13])([H:14])[O:15][H:16],4.0130004203
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],4.66810543344
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.15270065206
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.616623743069999
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C@@:8]1([H:9])[O:10][H:11]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],0.364110271439
[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[C:3]([H:4])[O:5][H:6].[O:1]=[C:2],2.0460608116
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.64607749005
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:10](=[C:9])[H:11]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]=[C:7]([H:8])[C:9]=[C:10]1[H:11],-0.628320089911
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.91162062932
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1]=[C:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.4042125660100002
